US08183380B2
rac-1-[2-(7-Fluoro-indan-1-ylamino)-quinolin-6-yl]-3-(1-isopropyl-piperidin-4-yl)-urea
The title compound was prepared in accordance with the general method 4 described in example 16 from bis(trichloromethyl) carbonate, 1-isopropyl-piperidin-4-ylamine (CAS no: 127285-08-9) and rac-N2-(7-fluoro-indan-1-yl)-quinoline-2,6-diamine; MS: m/e=462.3 (M+H+).

reactant | bis(trichloromethyl) carbonate | C(OC(Cl)(Cl)Cl)(OC(Cl)(Cl)Cl)=O | C3Cl6O3
reactant | 1-isopropyl-piperidin-4-ylamine | C(C)(C)N1CCC(CC1)N | C8H18N2
reactant | rac-N2-(7-fluoro-indan-1-yl)-quinoline-2,6-diamine | FC=1C=CC=C2CCC(C12)NC1=NC2=CC=C(C=C2C=C1)N | C18H16FN3
product | rac-1-[2-(7-Fluoro-indan-1-ylamino)-quinolin-6-yl]-3-(1-isopropyl-piperidin-4-yl)-urea | FC=1C=CC=C2CCC(C12)NC1=NC2=CC=C(C=C2C=C1)NC(=O)NC1CCN(CC1)C(C)C | C27H32FN5O
